US04851519
A solution of (2,6-dichlorophenyl)acetyl chloride (prepared from 103 mg of the acid) in 2 ml of diethyl ether was added to a solution of 173 mg of 5'-amino-3'-O-benzyl-2',5'-dideoxy-5-ethyluridine in 4.5 ml of 0.11M sodium hydroxide solution. The mixture was shaken vigorously for 10 minutes and then filtered. The solid was recrystallized from ethanol to give 120 mg of 3'-O-benzyl-5'-[2-(2,6-dichlorophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine in the form of a white solid of melting point 174°-177° C.

reactant | (2,6-dichlorophenyl)acetyl chloride | ClC1=C(C(=CC=C1)Cl)CC(=O)Cl | C8H5Cl3O
reactant | 5'-amino-3'-O-benzyl-2',5'-dideoxy-5-ethyluridine | 173 mg | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)OCC1=CC=CC=C1 | C18H23N3O4
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 0.11M, 4.5 ml | [OH-].[Na+]
product | 3'-O-benzyl-5'-[2-(2,6-dichlorophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine | 120 mg | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CNC(CC1=C(C=CC=C1Cl)Cl)=O)N1C(=O)NC(=O)C(=C1)CC | C26H27Cl2N3O5
